US09212182B2
Step 1: 1-bromo-4-chloro-2-cyclopropylbenzene
A solution of cyclopropylboronic acid (2.104 g, 24.49 mmol), 1-bromo-4-chloro-2-iodobenzene (5.700 g, 17.96 mmol), potassium phosphate (13.86 g, 65.3 mmol), and PdCl2(dppf)-DCM adduct (0.667 g, 0.816 mmol) in 18 mL dioxane and 6 mL water was heated to 100° C. overnight. The reaction mixture was then diluted with DCM and washed with water. The organics were dried over MgSO4 and concentrated. The crude residue was used in the next step without purification. m/z (ESI) does not ionize in H+ mode.

reactant | cyclopropylboronic acid | 24.49 mmol, 2.104 g | C1(CC1)B(O)O | C3H7BO2
reactant | 1-bromo-4-chloro-2-iodobenzene | 17.96 mmol, 5.700 g | BrC1=C(C=C(C=C1)Cl)I | C6H3BrClI
reactant | potassium phosphate | 65.3 mmol, 13.86 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 6 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) DCM | 0.816 mmol, 0.667 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-bromo-4-chloro-2-cyclopropylbenzene | BrC1=C(C=C(C=C1)Cl)C1CC1 | C9H8BrCl
